US07713996B2
A solution of 1-(5-chloro-2-methoxy-benzenesulfonyl)-4-methyl-2,3-dihydro-1H-indole-6-carboxylic acid (150 mg, 0.393 mmol), ethyl 4-aminobenzoate (130 mg, 0.786 mmol), 4-methylmorpholine (199 mg, 1.96 mmol), and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluoro-phosphate (224 mg, 0.589 mmol) in N,N-dimethylformamide (1.5 mL) was stirred at room temperature for 15 min, then 4-(dimethylamino)pyridine (49 mg, 0.39 mmol) was added, and the solution was stirred at 60° C. for 18 h. After cooling, the reaction mixture was partitioned between water, heptane, and ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2, heptane-ethyl acetate gradient) produced 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-4-methyl-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid ethyl ester (190 mg, 91%). White solid, MS (ISP): m/e 529.2 (M+H).

reactant | 1-(5-chloro-2-methoxy-benzenesulfonyl)-4-methyl-2,3-dihydro-1H-indole-6-carboxylic acid | 0.393 mmol, 150 mg | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCC2=C(C=C(C=C12)C(=O)O)C)OC | C17H16ClNO5S
reactant | ethyl 4-aminobenzoate | 0.786 mmol, 130 mg | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 4-methylmorpholine | 1.96 mmol, 199 mg | CN1CCOCC1 | C5H11NO
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluoro-phosphate | 0.589 mmol, 224 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 0.39 mmol, 49 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-4-methyl-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid ethyl ester | 190 mg, 91% | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC(=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)C)=O | C26H25ClN2O6S
